US06525051B2
To ethanol (350 mL) was added 5-(amidino)methyl-1,3-benzodioxolane (50 g, 0.23 mol), diethyl methylmalonate (50 mL), and sodium methoxide (120 mL of 25 wt % in methanol). After refluxing for 5 hours, the solvent was removed in vacuo. The residue was dissolved in water, washed with ethyl acetate, treated with charcoal, and acidified with 6 N HCl. The resulting solid was collected by filtration, washed with water, CH3CN and ethyl ether to give 54 g of 2-[(1,3-benzodioxol-5-yl)methyl]-4,6-dihydroxy-5-methylpyrimidine.

reactant | 5-(amidino)methyl-1,3-benzodioxolane | 0.23 mol, 50 g | C(N)(=N)CC1=CC2=C(OCO2)C=C1 | C9H10N2O2
reactant | diethyl methylmalonate | 50 mL | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | sodium methoxide | 120 mL | C[O-].[Na+]
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 2-[(1,3-benzodioxol-5-yl)methyl]-4,6-dihydroxy-5-methylpyrimidine | 54 g | O1COC2=C1C=CC(=C2)CC2=NC(=C(C(=N2)O)C)O | C13H12N2O4
